US05952511
To a suspension of sodium hydride (prepared by washing 50 g of 60% oily sodium hydride with hexane) in 1 l of N,N-dimethylformamide was added dropwise a solution of 176 g of 3-methoxyiminoindolin-2-one in 3 l of N,N-dimethylformamide at 0° C. in a nitrogen stream. To the mixture were added 1 l of N,N-dimethylformamide and 330 ml of bromoacetaldehyde diethyl acetal, and the mixture was heated to 70° C., at which it was stirred for 45 hours. The reaction mixture was concentrated, and the concentrate was diluted with ethyl acetate and washed with an aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated to give 284 g (97%) of 1-(2,2-diethoxyethyl)-3-methoxyiminoindolin-2-one.

reactant | sodium hydride | 50 g | [H-].[Na+]
reactant | 3-methoxyiminoindolin-2-one | 176 g | CON=C1C(NC2=CC=CC=C12)=O | C9H8N2O2
reactant | bromoacetaldehyde diethyl acetal | 330 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 1 l | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 l | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | 1-(2,2-diethoxyethyl)-3-methoxyiminoindolin-2-one | 284 g, 97% | C(C)OC(CN1C(C(C2=CC=CC=C12)=NOC)=O)OCC | C15H20N2O4
